US08309597B2
N,N-Dimethyl-4-(1,2,3,4-tetrahydro-isoquinolin-7-yloxy)-benzamide
A mixture of 10% palladium on carbon (1.50 g), 7-(4-dimethylcarbamoyl-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (2 mL), and ethanol (200 mL) is shaken in hydrogen atmosphere (3 bar) at room temperature for 2 h. Then the catalyst is separated by filtration and the filtrate is concentrated. The residue is purified by chromatography on silica gel (methanol/methanol containing 1% ammionia 1:0→0:1) to furnish the title compound that is precipitated from dioxane with 6 M HCl in dioxane.

reactant | 7-(4-dimethylcarbamoyl-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 2 mL | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OC1=CC=C(C=C1)C(N(C)C)=O | C26H26N2O4
reactant | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.50 g | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
product | N,N-Dimethyl-4-(1,2,3,4-tetrahydro-isoquinolin-7-yloxy)-benzamide | CN(C(C1=CC=C(C=C1)OC1=CC=C2CCNCC2=C1)=O)C | C18H20N2O2
